US05965619
5-fluoro-2-methyl-3-indenylacetic acid (15 g, 0.072 mol), p-methoxybenzaldehyde (12.39 g, 0.091 mol) and sodium methoxide (13.0 g, 0.24 mol) are heated in methanol (200 ml) at 60° C. under nitrogen with stirring for 6 hours. After cooling, the reaction mixture is poured into 750 ml of ice-water, and is acidified with 2.5 N hydrochloric acid. The collected solid is triturated with a little ether to produce (Z)-5-fluoro-2-methyl-1-(-methoxybenzylidene)-3-indenylacetic acid (m.p. 184-186° C.).

reactant | 5-fluoro-2-methyl-3-indenylacetic acid | 0.072 mol, 15 g | FC=1C=C2C(=C(CC2=CC1)C)CC(=O)O | C12H11FO2
reactant | p-methoxybenzaldehyde | 0.091 mol, 12.39 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | sodium methoxide | 0.24 mol, 13.0 g | C[O-].[Na+]
reactant | hydrochloric acid | 2.5 N | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
product | (Z)-5-fluoro-2-methyl-1-(-methoxybenzylidene)-3-indenylacetic acid | FC=1C=C2C(=C(/C(/C2=CC1)=C(\C1=CC=CC=C1)/OC)C)CC(=O)O | C20H17FO3
